US06660744B1
To a mixture of tert-butyl 4-{[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl}-4-hydroxy-1-piperidinecarboxylate (0.08 g, 0.00017 mol) in pyridine (4 mL) was added trans-2-phenyl-cyclopropane carbonyl chloride (0.035g, 0.00019 mol) at −5° C. The mixture was stirred at −5° C. for 10 minutes then warmed up to room temperature to stir for 1 hours. The mixture was quenched with an aqueous 1N solution of sodium hydroxide. Pyridine was removed under reduced pressure. The residue was partitioned between water and dichloromethane (50 mL). The organic layer was washed with water. The solvents were removed under reduced and the residue was purified by RP-HPLC (Hypersilprep HS C18, 8μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield trans tert-butyl 4-{[4-amino-3-(3-methoxy-4-{[(2-phenylcyclopropyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl}-4-hydroxy-1-piperidinecarboxylate (0.08 g, 0.00013 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 10.7 min. MS: MH+ 614.

reactant | tert-butyl 4-{[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl}-4-hydroxy-1-piperidinecarboxylate | 0.00017 mol, 0.08 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N)OC)CC2(CCN(CC2)C(=O)OC(C)(C)C)O | C23H31N7O4
reactant | trans-2-phenyl-cyclopropane carbonyl chloride | 0.00019 mol, 0.035g | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | trans tert-butyl 4-{[4-amino-3-(3-methoxy-4-{[(2-phenylcyclopropyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl}-4-hydroxy-1-piperidinecarboxylate | 0.00013 mol, 0.08 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2)OC)CC2(CCN(CC2)C(=O)OC(C)(C)C)O | C33H39N7O5
